US08859566B2
A mixture of 2-Chloro-8-(1-methyl-1H-pyrazol-4-yl)-1-propyl-1,7-dihydro-purin-6-one (0.1 g, 0.34 mmol), p-anisidine (0.049 g, 0.4 mmol) and 1-butanol (5 ml), were heated at reflux temperature for 20 hours. The reaction mixture was cooled to 20-25° C. and evaporated to dryness, then added water (20 ml) to the residue and extracted with ethyl acetate (4×20 ml). The organic layers were mixed and washed with brine (30 ml), dried over Na2SO4 and evaporated to dryness and the crude product was washed with diethyl ether and dried to obtain 2-(4-Methoxy-phenylamino)-8-(1-methyl-1H-pyrazol-4-yl)-1-propyl-1,7-dihydro-purin-6-one (0.0625 g, 48%) as an off white solid.

reactant | 2-Chloro-8-(1-methyl-1H-pyrazol-4-yl)-1-propyl-1,7-dihydro-purin-6-one | 0.34 mmol, 0.1 g | ClC=1N(C(C=2NC(=NC2N1)C=1C=NN(C1)C)=O)CCC | C12H13ClN6O
reactant | p-anisidine | 0.4 mmol, 0.049 g | COC1=CC=C(C=C1)N | C7H9NO
solvent | 1-butanol | 5 ml | C(CCC)O | C4H10O
product | 2-(4-Methoxy-phenylamino)-8-(1-methyl-1H-pyrazol-4-yl)-1-propyl-1,7-dihydro-purin-6-one | 0.0625 g, 48% | COC1=CC=C(C=C1)NC=1N(C(C=2NC(=NC2N1)C=1C=NN(C1)C)=O)CCC | C19H21N7O2
